US08420655B2
To a solution of 4-bromo-N1-tert-butyl-benzene-1,2-diamine (500 mg, 2.06 mmol) in DMF (20 mL) is added 2-formyl-benzonitrile (270 mg, 2.06 mmol) at room temperature. Oxone (758 mg, 1.23 mmol) is added and the solution is stirred at the same temperature for 2 hours. The reaction mixture is poured into 0.5 M K2CO3 solution (30 mL). The product is extracted into EtOAc (3×) and the combined organics are then dried (Na2SO4), filtered, and concentrated. Purification via flash chromatography (25 g silica gel, 0-4% MeOH/CH2Cl2) affords 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile (765 mg, 100%).

reactant | 4-bromo-N1-tert-butyl-benzene-1,2-diamine | 2.06 mmol, 500 mg | BrC=1C=C(C(=CC1)NC(C)(C)C)N | C10H15BrN2
reactant | 2-formyl-benzonitrile | 2.06 mmol, 270 mg | C(=O)C1=C(C#N)C=CC=C1 | C8H5NO
reactant | Oxone | 1.23 mmol, 758 mg | OOS(=O)[O-].[K+]
reactant | K2CO3 | 0.5 M, 30 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile | 765 mg, 100% | BrC1=CC2=C(N(C(=N2)C2=C(C#N)C=CC=C2)C(C)(C)C)C=C1 | C18H16BrN3
